US07960409B2
(S)-4-(3,4-difluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinoline-2-carbonitrile
To a solution of 4-chloro-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinoline-2-carbonitrile (100 mg, 0.25 mmol) in DME (3 mL) was added tetrakis(triphenylphosphine)palladium (14 mg, 0.013 mmol), 3,4-difluorophenylboronic acid (59 mg, 0.38 mmol) and aq. 2M Na2CO3 (0.38 mL, 0.75 mmol). After 2 h at 100° C., the reaction was quenched with water and extracted with EtOAc. The combined organic layers were washed with brine, dried over Na2SO4, filtered and concentrated under reduce pressure. Purification on silica gel (eluting with EtOAc/hexanes, 4:6) gave the title compound. MS (+ESI): 474 (M+H)+.

reactant | 4-chloro-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinoline-2-carbonitrile | 0.25 mmol, 100 mg | ClC1=CC(=NC2=CC(=CC=C12)CN1N=NC(=C1)C(CC)(C(F)(F)F)O)C#N | C17H13ClF3N5O
reactant | 3,4-difluorophenylboronic acid | 0.38 mmol, 59 mg | FC=1C=C(C=CC1F)B(O)O | C6H5BF2O2
reactant | Na2CO3 | 0.75 mmol, 2M, 0.38 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 3 mL | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.013 mmol, 14 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (S)-4-(3,4-difluorophenyl)-7-({4-[1-hydroxy-1-(trifluoromethyl)propyl]-1H-1,2,3-triazol-1-yl}methyl)quinoline-2-carbonitrile | FC=1C=C(C=CC1F)C1=CC(=NC2=CC(=CC=C12)CN1N=NC(=C1)[C@@](CC)(C(F)(F)F)O)C#N | C23H16F5N5O
